US07342039B2
This compound was produced using similar methods as those used in Step 2, example 4, starting with 6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.50 g, 1.00 mmol) and methyl hydrazine (0.087 g, 1.88 mmol). The crude material was purified by flash chromatography through silica gel using ethyl acetate/methylene chloride (2/98 gradient to 8/92) to give 6-(3-aminooxy-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.34 g, 92%) as a white solid.

reactant | 6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 1.00 mmol, 0.50 g | COC(=O)C=1C=C(C(=CC1)OCCCON1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C26H20F3NO6
reactant | methyl hydrazine | 1.88 mmol, 0.087 g | CNN | CH6N2
product | 6-(3-aminooxy-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 0.34 g, 92% | COC(=O)C=1C=C(C(=CC1)OCCCON)C1=CC=C(C=C1)C(F)(F)F | C18H18F3NO4
